US04898863
To a solution of boron trifluoride etherate (18 ml) in chloroform (450 ml, Al2O3 treated) at -15° was added a solution of 3-amino-4-methylbenzoic acid (15.1 g) in tetrahydrofuran (150 ml) over 15 minutes and the resulting mixture was then stirred for an additional 5 minutes. To this mixture was added t-butyl nitrite (14 ml), and the reaction was warmed to 5° . After stirring for 1 hour, potassium acetate (49 g) and 18-crown-6 (2.65 g) were added. The reaction mixture was allowed to warm to room temperature and stirred for 72 hours. The reaction mixture was evaporated, and 3:7 acetone:ethyl acetate (500 ml) and 1N hydrochloric acid (150 ml) were added. After stirring for 2 hours, brine (150 ml) was added to the mixture and the mixture filtered. The aqueous filtrate was extracted with 3:7 acetone:ethyl acetate (2×100 ml). The combined organic extract was dried (MgSO4) and evaporated. The resulting residue was dissolved in hot acetic acid (250 ml) and 250 ml saturated ethereal HCl and 250 ml ether were added sequentially. After cooling to room temperature, the precipitate was filtered and treated with 3:7 acetone:ethyl acetate (500 ml) and brine (100 ml) for 1 hour. After the phases were separated, the aqueous layer was extracted with ethyl acetate (100 ml). The combined organic extracts were washed with brine, dried (MgSO4) and evaporated to afford 6-carboxyindazole as a brown solid (9.8 g, 57%), mp >250°.

reactant | boron trifluoride etherate | 18 ml | B(F)(F)F.CCOCC
reactant | 3-amino-4-methylbenzoic acid | 15.1 g | NC=1C=C(C(=O)O)C=CC1C | C8H9NO2
reactant | t-butyl nitrite | 14 ml | N(=O)OC(C)(C)C | C4H9NO2
reactant | potassium acetate | 49 g | C(C)(=O)[O-].[K+]
reactant | 18-crown-6 | 2.65 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | chloroform | 450 ml | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 6-carboxyindazole | 9.8 g, 57% | C(=O)(O)C1=CC=C2C=NNC2=C1 | C8H6N2O2
